US08871269B2
Alternative organic ions in addition to pamoate were investigated to explore the general utility of the present invention. Microparticle formulations were prepared by an oil-in-water emulsion/solvent extraction method. PLGA polymer (MW 24,000, 160 mg) was dissolved in EtOAc (1000 μL). Octreotide acetate (40 mg) was dissolved in BnOH (1000 μL) and added to the polymer solution yielding a homogenous organic phase. The resulting organic phase was combined with a 1% PVA aqueous phase containing 10-20 mM organic acid as its sodium salt to provide an emulsion. The emulsion was collected directly into a 0.3% PVA solvent extraction solution (150 mL) and stirred for four hours to extract EtOAc. Hardened microparticles were collected by filtration, washed with water, air dried and stored at 4° C. This resulted in microparticle formulations with octreotide core loads between 6.8 and 15.3% as measured by RP-HPLC (Table 8). The effects of the tested organic ions on core load are revealing. Formulations AM-AP show no increase in the measured core load relative to control containing sodium pamoate (Formulations AT, AU, AY, Table 8). In contrast formulations AQ-AS, AV-AX and AZ-BB, which employed organic acids ranging from cholic acid to bicylic aromatics, provided peptide core loads comparable to pamoic acid (Table 8). These results imply that organic acids with appropriate physiochemical properties can be substituted for pamoic acid to produce comparable microparticle formulations.

reactant | Octreotide acetate | 40 mg | C[C@H]([C@H]1C(=O)N[C@@H](CSSC[C@@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)N1)CCCCN)CC2=CNC3=C2C=CC=C3)CC=4C=CC=CC4)NC(=O)[C@@H](CC=5C=CC=CC5)N)C(=O)N[C@H](CO)[C@@H](C)O)O.CC(=O)O
reactant | sodium | [Na] | Na
solvent | EtOAc | 1000 μL | CCOC(=O)C | C4H8O2
solvent | BnOH | 1000 μL | C(C1=CC=CC=C1)O | C7H8O
product | octreotide | C[C@H]([C@H]1C(=O)N[C@@H](CSSC[C@@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)N1)CCCCN)CC2=CNC3=C2C=CC=C3)CC=4C=CC=CC4)NC(=O)[C@@H](CC=5C=CC=CC5)N)C(=O)N[C@H](CO)[C@@H](C)O)O | C49H66N10O10S2
